* Model of PT100 ellement
* block symbol definitions
.subckt pt100 A B
R1 A B {Rt}
.param A=0.0039083 B=-0.0000005775 C=0 R0=100.00
.param Rt=R0*(1+A*SensT+B*SensT*SensT+C*SensT*SensT*SensT*(SensT-100))
.ends pt100

* Model of PT1000 ellement
* block symbol definitions
.subckt pt1000 A B
R1 A B {Rt}
.param A=0.0039083 B=-0.0000005775 C=0 R0=1000.00
.param Rt=R0*(1+A*SensT+B*SensT*SensT+C*SensT*SensT*SensT*(SensT-100))
.ends pt1000

